US07247626B2
7-Phenyl-2-thioxo-2,3-dihydropyrazolo[1,5-a][1,3,5]triazin-4(1H-one (6.4 g, 26.2 mmol) was dissolved in absolute ethanol (150 mL). To this solution was added aqueous sodium hydroxide (2.1 g, 53 mmol in 50 mL of water) and finally iodomethane (1.7 mL, 27.3 mmol) was added dropwise. The resulting solution was stirred at room temperature for 3 hours and then concentrated to a white solid. This solid was suspended in water and the mixture acidified (to pH=1) with concentrated sulfuric acid. The resulting precipitate was collected by filtration, washed with water and dried to give 2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4(3H)-one (5.5 g, 81%) as a white solid. 1H-NMR (DMSO-d6): δ 7.99 (d, 2H), 7.5 (m, 3H), 6.93 (s, 1H), 2.58 (s, 3H); MS m/z 259 (M+1).

reactant | 7-Phenyl-2-thioxo-2,3-dihydropyrazolo[1,5-a][1,3,5]triazin | 26.2 mmol, 6.4 g | C1(=CC=CC=C1)C1=NN2C(NC(NC2)=S)=C1 | C11H10N4S
reactant | sodium hydroxide | 53 mmol, 50 mL, 2.1 g | [OH-].[Na+]
reactant | iodomethane | 27.3 mmol, 1.7 mL | IC | CH3I
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4(3H)-one | 5.5 g, 81% | CSC1=NC=2N(C(N1)=O)N=C(C2)C2=CC=CC=C2 | C12H10N4OS
